US07705169B2
c) Identification of Unreacted Capric Acid
Instrumentation: Preparative HPLC (Waters 4000) equipped with refractive index monitor (Waters 2414) and a radial compression module (Waters 8×100). A preparative C18 column (Nova-Pak HR 8×100) was used with a Shimadzu CR 501 chromatopac integrator. The mobile phase was prepared by mixing acetonitrile with tetrahydrofuran and water in a ratio of 5:1:4.

reactant | acetonitrile | C(C)#N | C2H3N
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | water | O | H2O
product | Capric Acid | OC(=O)CCCCCCCCC | C10H20O2
